US04328202
5-CYANO-3-[N-(2,3-DIHYDROXYPROPYL)CARBAMOYL]-2,4,6-TRIIODOBENZOYL CHLORIDE
18.1 g of 5-cyano-2,4,6-triiodoisophthalic acid dichloride is combined in 750 ml of dioxane at 80° C. with 7.1 g of 1-amino-2,3-propanediol and stirred for 2 hours. The mixture is then separated from the precipitated hydrochloride of 1-amino-2,3-propanediol, and the filtrate is concentrated under vacuum. The residue is extracted by boiling with 800 ml of ethyl acetate. After concentration and cooling, 11.7 g (59% of theory) of 5-cyano-3-[N-(2,3-dihydroxypropyl)carbamoyl]-2,4,6-triiodobenzoyl chloride is crystallized from the extract as a white powder; mp 285°-288° C.

reactant | 5-cyano-2,4,6-triiodoisophthalic acid dichloride | 18.1 g | C(#N)C=1C(=C(C(=C(C(=O)Cl)C1I)I)C(=O)Cl)I | C9Cl2I3NO2
reactant | 1-amino-2,3-propanediol | 7.1 g | NCC(CO)O | C3H9NO2
solvent | dioxane | 750 ml | O1CCOCC1 | C4H8O2
product | 5-CYANO-3-[N-(2,3-DIHYDROXYPROPYL)CARBAMOYL]-2,4,6-TRIIODOBENZOYL CHLORIDE | C(#N)C=1C(=C(C(=C(C(=O)Cl)C1I)I)C(NCC(CO)O)=O)I | C12H8ClI3N2O4
